US07390830B1
Synthesis of 4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]-1-(3-amino-4-hydroxybenzyl)piperidine (Compd. No. 2141)
A 4 M dioxane solution of HCl (0.50 mL) was added to a methanol (1 mL) solution of 1-(3-amino-4-hydroxybenzyl)-4-[[N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine (20.0 mg, 0.035 mmol), and the resulting mixture was stirred at room temperature overnight and concentrated. The obtained residue was then dissolved in methanol, loaded onto a Varian™ SCX column, washed with methanol (5 mL×2), eluted with a 2 M methanol solution of NH3 (5 mL) and concentrated to thereby afford 4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]-1-(3-amino-4-hydroxybenzyl)piperidine (Compd. No. 2141) (17.6 mg, quantitative). The purity was determined by RPLC/MS (85%). ESI/MS m/e 448.3 (M++H, C22H27F2N5O3).

reactant | dioxane | 4 M | O1CCOCC1 | C4H8O2
reactant | HCl | 0.50 mL | Cl | ClH
reactant | 1-(3-amino-4-hydroxybenzyl)-4-[[N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine | 0.035 mmol, 20.0 mg | NC=1C=C(CN2CCC(CC2)CNC(CNC(C2=C(C=C(C(=C2)F)F)NC(=O)OC(C)(C)C)=O)=O)C=CC1O | C27H35F2N5O5
solvent | methanol | 1 mL | CO | CH4O
product | 4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]-1-(3-amino-4-hydroxybenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)O)N)C=C(C(=C1)F)F | C22H27F2N5O3
